US05196547
Preparation of 3-ethyl-N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl) indolizine-1-carboxamide
3-Ethylindolizine-1-carboxylic acid is reacted with carbonyldiimidazole in dimethylformamide and subsequently with 7a-aminomethylhexahydro-1H-pyrrolizine to afford the title compound upon workup.

reactant | 3-Ethylindolizine-1-carboxylic acid | C(C)C1=CC(=C2C=CC=CN12)C(=O)O | C11H11NO2
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 7a-aminomethylhexahydro-1H-pyrrolizine | NCC12CCCN2CCC1 | C8H16N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-ethyl-N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl) indolizine-1-carboxamide | C(C)C1=CC(=C2C=CC=CN12)C(=O)NCC12CCCN2CCC1 | C19H25N3O
